US08334305B2
3-Cyclohexylmethoxy-benzoic acid
Ethyl 3-cyclohexylmethoxy benzoic acid (1.8 g, 6.7 mmol) was dissolved in ethanol (50 ml) and THF (50 ml), wereupon NaOH (4 N, 10 ml) was added, and the solution was stirred overnight at 20° C. To the reaction mixture was added HCl (2 N, 200 ml), and the resulting solution was extracted with DCM (3×100 ml). The combined organic extracts were washed with water (100 ml), dried (MgSO4) and evaporated to give 1.6 g of the title compound. LC-MS (m/z): 236 (M+2).

reactant | Ethyl 3-cyclohexylmethoxy benzoic acid | 6.7 mmol, 1.8 g | C(C)C1=C(C(=O)O)C=CC=C1OCC1CCCCC1 | C16H22O3
reactant | NaOH | 4 N, 10 ml | [OH-].[Na+]
reactant | HCl | 2 N, 200 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Cyclohexylmethoxy-benzoic acid | 1.6 g | C1(CCCCC1)COC=1C=C(C(=O)O)C=CC1 | C14H18O3
